US04604390
N,N-Diethyl-10-methoxy-5-nitro-2H[1]benzothiopyrano[4,3,2-cd]indazole-2-ethanamine
Reaction of a mixture of 2.5 g (0.0192 mol) of 2-(diethylaminoethyl)hydrazine, 4.2 g (0.0131 mol) of 1-chloro-8-methoxy-4-nitro-9H-thioxanthen-9-one in 110 ml of DMF as described in Example 53 gave 2.7 g of product.

reactant | 2-(diethylaminoethyl)hydrazine | 0.0192 mol, 2.5 g | C(C)N(CC)CCNN | C6H17N3
reactant | 1-chloro-8-methoxy-4-nitro-9H-thioxanthen-9-one | 0.0131 mol, 4.2 g | ClC1=CC=C(C=2SC3=CC=CC(=C3C(C12)=O)OC)[N+](=O)[O-] | C14H8ClNO4S
solvent | DMF | 110 ml | CN(C)C=O | C3H7NO
product | N,N-Diethyl-10-methoxy-5-nitro-2H[1]benzothiopyrano[4,3,2-cd]indazole-2-ethanamine | 2.7 g | C(C)N(CCN1N=C2C=3C(=C(C=CC13)[N+](=O)[O-])SC1=C2C(=CC=C1)OC)CC | C20H22N4O3S
